US06184245B2
Synthesis of Compound 13: 3-{2-(5-acetylfuran-2-yl)}acetyl-4-hydroxy-6-methyl-pyrone
The 2.49 g (14.8 mmol) of 5-acetyl-2-furanacetic acid, 1.87 g (14.8 mmol) of 4-hydroxy-6-methyl-2-pyrone and 3.37 g (16.3 mmol) of DCC were suspended in 25 ml of chloroform, then 183 mg (1.50 mmol) of DMAP added and stirring carried out overnight at 60° C. The reaction liquid was cooled to room temperature and the insoluble material filtered off. The mother liquor was concentrated and the residue purified by column chromatography. The solid obtained was recrystallized from ethanol and Compound 13 (496 mg, 1.79 mmol, 12%) obtained. This was converted to the sodium salt with an equivalent quantity of sodium hydrogen carbonate.

reactant | 5-acetyl-2-furanacetic acid | 14.8 mmol, 2.49 g | C(C)(=O)C1=CC=C(O1)CC(=O)O | C8H8O4
reactant | 4-hydroxy-6-methyl-2-pyrone | 14.8 mmol, 1.87 g | OC1=CC(OC(=C1)C)=O | C6H6O3
reactant | DCC | 16.3 mmol, 3.37 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | sodium | [Na] | Na
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | DMAP | 1.50 mmol, 183 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | ethanol | C(C)O | C2H6O
product | 3-{2-(5-acetylfuran-2-yl)}acetyl-4-hydroxy-6-methyl-pyrone | C(C)(=O)C1=CC=C(O1)CC(=O)C=1C(OC(=CC1O)C)=O | C14H12O6
